US06720322B2
1 g of 4,6-dichloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-pyrimidine and 1.43 g of 5-isopropyl pyridine-2-sulfonamide potassium salt were suspended in 20 ml of dry DMF. The mixture was stirred under argon at room temperature and became clear within a few h. After 16 h at room temperature, most of the solvent was removed by evaporation under reduced pressure. The residue was taken up in 20 ml water and the pH was adjusted to 4-5 by adding about 1 ml of acetic acid. A precipitate formed. The precipitate was filtered off, washed with water and dried. The yellow powder was further purified by column chromatography on silica gel eluting first with hexane:ethyl acetate 1:1 then with DCM:MeOH 10:1. 1.43 g of 5-isopropyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide was obtained as a slightly yellow powder. LC-MS: tR=5.00 min, [M+1]+=512.19, [M−1]−=510.26.

reactant | 4,6-dichloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-pyrimidine | 1 g | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC=NC=C1 | C16H11Cl2N3O2
reactant | 5-isopropyl pyridine-2-sulfonamide potassium salt | 1.43 g | [K+].C(C)(C)C=1C=CC(=NC1)S(=O)(=O)[NH-]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-isopropyl-N-[6-chloro-5-(o-methoxyphenoxy)-2-(4-pyridyl)-4-pyrimidinyl]-2-pyridine sulfonamide | 1.43 g | C(C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC=NC=C1 | C24H22ClN5O4S
